US04657909
6-Formyl-4,7,9-trihydroxy-1-phenazinecarboxylic acid (520 mg, 1.73 mmoles) was suspended in 15 ml of dry dimethylformamide (DMF) and 1,1'-carbonyldiimidazole (700 mg, 4.32 mmoles) dissolved in 4 ml of DMF was added. The reaction mixture was stirred for 20 minutes at 25° C. until a clear solution had formed. The solution was then cooled in an ice bath and N,N-dimethylethylenediamine (0.6 ml) added. After stirring for 15 minutes at 25° C. the excess reagents were removed under vacuum to yield N-[2-(dimethylamino)ethyl]-6-[[[2-(dimethylamino)ethyl]imino]methyl]-4,7,9-trihydroxy-1-phenazinecarboxamide. The retention time for this product in the HPLC system described above in Example 3 is 5.0 minutes.

reactant | 6-Formyl-4,7,9-trihydroxy-1-phenazinecarboxylic acid | 1.73 mmoles, 520 mg | C(=O)C1=C2N=C3C(=CC=C(C3=NC2=C(C=C1O)O)C(=O)O)O | C14H8N2O6
reactant | 1,1'-carbonyldiimidazole | 4.32 mmoles, 700 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | N,N-dimethylethylenediamine | 0.6 ml | CN(CCN)C | C4H12N2
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | DMF | 4 ml | CN(C=O)C | C3H7NO
product | N-[2-(dimethylamino)ethyl]-6-[[[2-(dimethylamino)ethyl]imino]methyl]-4,7,9-trihydroxy-1-phenazinecarboxamide | CN(CCNC(=O)C1=CC=C(C2=NC3=C(C(=CC(=C3N=C12)O)O)C=NCCN(C)C)O)C | C22H28N6O4
